US06110872
30 g of 2-(2,4,5-trimethylphenyl)-malonic acid were suspended in 60 ml of toluene at 50 to 60° C. and 62.5 ml of thionyl chloride were added dropwise. The mixture was then heated at 90 to 100° C. for 15 hours. It was then cooled, the volatile constituents were driven off with an inert gas and the excess thionyl chloride was distilled off. 30.6 g of 2,4,5-trimethylphenylchlorocarbonyl ketene were isolated as the residue.

reactant | 2-(2,4,5-trimethylphenyl)-malonic acid | 30 g | CC1=C(C=C(C(=C1)C)C)C(C(=O)O)C(=O)O | C12H14O4
reactant | thionyl chloride | 62.5 ml | S(=O)(Cl)Cl | Cl2OS
solvent | toluene | 60 ml | C1(=CC=CC=C1)C | C7H8
product | 2,4,5-trimethylphenylchlorocarbonyl ketene | 30.6 g | CC1=C(C=C(C(=C1)C)C)C(=C=O)C(=O)Cl | C12H11ClO2
